US06410550B1
6-BENZYL-5-OXA-7,13-DIAZATETRACYCLO[9.3.1.02,10.04,8]PENTADECA-2(10),3,6,8-TETRAENE HYDROCHLORIDE
2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone and phenyl-acetyl chloride were converted to the title compound following the procedures described in EXAMPLE 47. 1H NMR (400 MHz, CD3OD) δ7.63 (s, 1H), 7.58 (s, 1H), 7.36-7.24 (5H), 4.29 (s, 2H), 3.46 (d, J=2.5 Hz, 2H), 3.39 (d, J=12.0 Hz, 2H), 3.18 (2H), 2.42 (m, 1H), 2.15 (d, J=11.5 Hz, 1H). APCl MS m/e 291.2 [(M+1)+].

reactant | 2,2,2-Trifluoro-1-(4-hydroxy-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-ethanone | FC(C(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)O)N)(F)F | C13H13F3N2O2
reactant | phenyl-acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 6-BENZYL-5-OXA-7,13-DIAZATETRACYCLO[9.3.1.02,10.04,8]PENTADECA-2(10),3,6,8-TETRAENE HYDROCHLORIDE | Cl.C(C1=CC=CC=C1)C=1OC2=CC=3C4CNCC(C3C=C2N1)C4 | InChI=1S/C19H18N2O.ClH/c1-2-4-12(5-3-1)6-19-21-17-8-15-13-7-14(11-20-10-13)16(15)9-18(17)22-19;/h1-5,8-9,13-14,20H,6-7,10-11H2;1H
